US07282501B2
Suzuki Coupling Using Aryl Boronic Acids: A mixture of 3-[4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester (450 mg, 0.75 mmol), 3-pyridineboronic acid (120 mg, 0.97 mmol), triphenylphosphine (6 mg, 0.024 mmol), 2M aqueous sodium carbonate (3 mL) in n-propanol (15 mL) was sparged with nitrogen for 5 min. Palladium acetate (2 mg, 0.008 mmol) was added, and the reaction was heated to reflux under a blanket of nitrogen for 4 h. The reaction mixture was concentrated and then partitioned between water/EtOAc. The organic layer was dried (MgSO4) and concentrated to crude product (290 mg). This material was purified by silica gel column chromatography to yield 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-pyridin-3-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester was obtained as a white solid (230 mg, 51%). 1H NMR (CDCl3) δ1.25 (d, 6H), 1.42 (s, 9H), 2.42 (s, 3H), 2.51 (t, 2H), 2.89 (t, 2H), 3.05 (t, 2H), 4.26 (t, 2H), 4.36 (d, 2H), 4.96 (m, 2H), 6.78 (dd, 1H), 6.87 (d, 1H), 7.21 (d, 1H), 7.47 (dd, 1H), 7.67 (d, 2H), 8.00 (dt, 1H), 8.12 (d, 2H), 8.65 (dd, 1H), 8.94 (s, 1H). MS [EI+] m/z 600 (M+H).

reactant | 3-[4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-2-(isopropoxycarbonylamino-methyl)-phenyl]-propionic acid tert-butyl ester | 0.75 mmol, 450 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)CNC(=O)OC(C)C)=O | C30H37BrN2O6
reactant | 3-pyridineboronic acid | 0.97 mmol, 120 mg | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | triphenylphosphine | 0.024 mmol, 6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2M, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | n-propanol | 15 mL | C(CC)O | C3H8O
catalyst | Palladium acetate | 0.008 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(2-(isopropoxycarbonylamino-methyl)-4-{2-[5-methyl-2-(4-pyridin-3-yl-phenyl)-oxazol-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C=1C=NC=CC1)CNC(=O)OC(C)C)=O | C35H41N3O6
